US08242130B2
To a solution of 2-bromo-5-hydroxypyridine (1.04 g, 6 mmol) in 25 mL anhydrous THF was added 2-naphthylboronic acid (1.03 g, 6 mmol) and 2 M aq. sodium carbonate (9 mL, 18 mmol). To this reaction mixture was added palladium tetrakistriphenylphosphine (0.7 g, 0.6 mmol) and the mixture was stirred at rt for 15 h under nitrogen. The reaction mixture was diluted with EtOAc, the organic layer was washed with water (50 mL), brine (50 mL) and dried over anhydrous Na2SO4. Removal of solvent gave a white powder which was purified by column chromatography (Silica Gel 230-400 mesh; 3% MeOH in DCM) to give 6-naphthalen-2-yl-pyridin-3-ol (0.225 g, 17%). MS (ES) m/z: 222.96 (M+1), 221.93 (M); Mp. 168-169° C.

reactant | 2-bromo-5-hydroxypyridine | 6 mmol, 1.04 g | BrC1=NC=C(C=C1)O | C5H4BrNO
reactant | 2-naphthylboronic acid | 6 mmol, 1.03 g | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
reactant | sodium carbonate | 18 mmol, 2 M, 9 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 6-naphthalen-2-yl-pyridin-3-ol | 0.225 g, 17% | C1=C(C=CC2=CC=CC=C12)C1=CC=C(C=N1)O | C15H11NO
